US05208247
2-Pyridinecarbonyl chloride, hydrochloride
To a mixture of 20 g of picolinic acid, 200 ml of methylene chloride and 5 drops of dimethylformamide is added, dropwise, 30.93 g of oxalyl chloride. The reaction is stirred at room temperature for 18 hours and concentrated in vacuo to give the desired product as a black crystalline material.

reactant | picolinic acid | 20 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | oxalyl chloride | 30.93 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Pyridinecarbonyl chloride, hydrochloride | Cl.N1=C(C=CC=C1)C(=O)Cl | InChI=1S/C6H4ClNO.ClH/c7-6(9)5-3-1-2-4-8-5;/h1-4H;1H
